US07388061B2
To 11.3 g (0.05 mol) 9,9-dihydroxymethylfluorene was added 50 ml tetrahydrofuran, then added 12.1 ml (0.15 mol) pyridine with stirring. To the resulting homogenous mixture was slowly added 14.5 ml (0.125 mol) benzoyl chloride. The mixture was stirred at room temperature for 1 hour, and then heated refluxing for 4 hours. Upon reaction completion, 70 ml water was added to dissolve the resulting salt. The mixture was extracted with toluene. The organic phase was separated, washed with saturated saline for two times, dried over anhydrous sodium sulfate. The solvent was removed to give a white solid. Recrystallization from ethyl acetate gave 9,9-bis(benzoyloxymethyl)fluorene as a white crystal, the yield was 89%, and m.p. was 144-146° C. 1HNMR: δ (ppm) 4.74(s, 4H, CH2), 7.25-7.75(m, 18H, ArH)

reactant | 9,9-dihydroxymethylfluorene | 0.05 mol, 11.3 g | OCC1(C2=CC=CC=C2C=2C=CC=CC12)CO | C15H14O2
reactant | tetrahydrofuran | 50 ml | O1CCCC1 | C4H8O
reactant | pyridine | 0.15 mol, 12.1 ml | N1=CC=CC=C1 | C5H5N
reactant | benzoyl chloride | 0.125 mol, 14.5 ml | C(C1=CC=CC=C1)(=O)Cl | C7H5ClO
solvent | water | 70 ml | O | H2O
product | 9,9-bis(benzoyloxymethyl)fluorene | yield was 89% | C(C1=CC=CC=C1)(=O)OCC1(C2=CC=CC=C2C=2C=CC=CC12)COC(C1=CC=CC=C1)=O | C29H22O4
